US06642249B2
4-(3-Oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid (30 mg, 0.1 mmol) was dissolved in DMF (0.5 ml) and 18 mg (0.1 mmol) of carbonyldiimidazol (90% pure) was added and the mixture stirred for 4 h. Phenylalanine (33 mg, 0.2 mmol) was dissolved in of H2O (0.5 ml) together with triethylamine (0.05 ml) and added to the activated acid. This reaction mixture was heated at 75° C. for 2 h. After cooling it was made acidic and diluted 5×with H2O. The precipitate was filtered and washed with H2O and dried under vacuum. FlashTube chromatography using EtOAc/MeOH(7:3) yielded a small amount of 2-[4-(3-Oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoylamino]-3-phenyl-propionic acid. The material contained approx. 10% of starting material. 1H NMR (400 MHz, DMSO-d6) δ 8.7 (1H, s), 8.31 (2H, d), 8.21 (1H, d), 7.82 (2H, d), 7.70 (1H, d), 7.62 (1H, t), 7.50 (1H, t), 7.2-7.3(4H, m), 7.17 (1H, t), 4.50 (1H, m), 3.1-3.2 (2H,m).

reactant | 4-(3-Oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid | 0.1 mmol, 30 mg | O=C1N(N=C2C1=CNC=1C=CC=CC21)C2=CC=C(C(=O)O)C=C2 | C17H11N3O3
reactant | carbonyldiimidazol | 0.1 mmol, 18 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Phenylalanine | 0.2 mmol, 33 mg | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | H2O | 0.5 ml | O | H2O
solvent | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
product | 2-[4-(3-Oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoylamino]-3-phenyl-propionic acid | O=C1N(N=C2C1=CNC=1C=CC=CC21)C2=CC=C(C(=O)NC(C(=O)O)CC1=CC=CC=C1)C=C2 | C26H20N4O4
